US05939549
A) 1 -Acetyl-2-cyano-1,4,5,6-tetrahydropyrazine
10.0 ml (106 mmol) of acetic anhydride and 8.0 ml (99 mmol) of pyridine were added to 5.10 g (47 mmol) of 2-cyano-1,4,5,6-tetrahydropyrazine, and the mixture was stirred at 20° C. for 18 h. After aqueous work-up, the reaction product was extracted three times with 100-200 ml of ethyl acetate each. The combined organic extracts were dried over magnesium sulphate and concentrated. The crude product was then purified by flash chromatography (silica gel 40×3 cm, ethyl acetate:hexane=4:1, Rf =0.25). the fraction having Rf =0.25 (5.82 g) was taken up in 40 ml of diethyl ether and the precipitated solid was filtered off and dried.

reactant | acetic anhydride | 106 mmol, 10.0 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 99 mmol, 8.0 ml | N1=CC=CC=C1 | C5H5N
reactant | 2-cyano-1,4,5,6-tetrahydropyrazine | 47 mmol, 5.10 g | C(#N)C=1NCCNC1 | C5H7N3
product | 1 -Acetyl-2-cyano-1,4,5,6-tetrahydropyrazine | C(C)(=O)N1C(=CNCC1)C#N | C7H9N3O
